US08030334B2
3-Methyl-2-pyridin-3-yl-1H-indole hydrochloride and benzoyl chloride are processed according to the method described in Example 38 to give (3-methyl-2-pyridin-3-yl-indol-1-yl)-phenyl-methanone. 1H NMR (400 MHz, MeOD) δ ppm 2.33 (s, 3H), 7.26-7.40 (m, 5H), 7.45-7.52 (m, 1H), 7.57 (d, J=1.3 Hz, 1H), 7.59 (s, 1H), 7.63 (dd, J=7.1, 1.3 Hz, 1H), 7.68-7.73 (m, 1H), 7.75 (dt, J=7.8, 1.9 Hz, 1H), 8.33 (dd, J=5.1, 1.5 Hz, 1H), 8.47 (d, J=1.3 Hz, 2H). HRMS (ESI) m/z 313.1337 [(M+H)+ Calcd for C21H17N2O: 313.1341].

reactant | 3-Methyl-2-pyridin-3-yl-1H-indole hydrochloride | Cl.CC1=C(NC2=CC=CC=C12)C=1C=NC=CC1
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | (3-methyl-2-pyridin-3-yl-indol-1-yl)-phenyl-methanone | CC1=C(N(C2=CC=CC=C12)C(=O)C1=CC=CC=C1)C=1C=NC=CC1 | C21H16N2O
